US05164497
Preparation of Diethylene Glycol Diethyl Ether
Using the apparatus employed in Examples 15-27, a mixture of 2-(2-ethoxyethoxy)ethanol (1 mole) and diethyl carbonate (3 mole) was passed through 11.5 grams of a magnesium:aluminum mixed metal oxide (3/16 inch pellets, Mg/Al 3:1) at a temperature of 225° C. and at a liquid feed rate of 0.29 milliliters/minute. After a period of one hour, a total of 30.2 grams of liquid was collected. Analysis was performed by capillary gas chromatography (FID) using a DB-1701 column. The results were (area %) as follows:

reactant | 2-(2-ethoxyethoxy)ethanol | 1 mole | C(C)OCCOCCO | C6H14O3
reactant | diethyl carbonate | 3 mole | C(OCC)(OCC)=O | C5H10O3
reactant | magnesium | 11.5 grams | [Mg] | Mg
reactant | aluminum | [Al] | Al
product | Diethylene Glycol Diethyl Ether | C(C)OCCOCCOCC | C8H18O3
